US09447084B2
4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]piperazine-2,6-dione
Into a 100-mL round-bottom flask, was placed 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid (452 mg, 1.00 mmol, 1.00 equiv), dichloromethane (50 mL), TEA (202 mg, 2.00 mmol, 2.00 equiv), EDCI (384 mg, 2.00 mmol, 2.00 equiv), HOBt (270 mg, 2.00 mmol, 2.00 equiv). The mixture was stirred for 0.5 h at room temperature. This was followed by the addition of piperazine-2,6-dione (125 mg, 1.10 mmol, 1.10 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 100 mL of DCM. The resulting mixture was washed with 3×50 mL of brine. The mixture was dried over anhydrous sodium sulfate. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2). This resulted in 210 mg (38%) of 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]piperazine-2,6-dione as a light yellow solid.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid | 1.00 mmol, 452 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H12ClF6NO3
reactant | EDCI | 2.00 mmol, 384 mg, 2.00 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.00 mmol, 270 mg, 2.00 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperazine-2,6-dione | 1.10 mmol, 125 mg, 1.10 equiv | N1C(CNCC1=O)=O | C4H6N2O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]piperazine-2,6-dione | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C)C(F)(F)F | C23H16ClF6N3O4
